US07084139B2
(3S)-3-Amino-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]pyrrolidin-2-one
A mixture of benzyl (3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-ylcarbamate (20 g), 10% palladium on carbon (2 g) and ethanol (1.3 l) was stirred under an atmosphere of hydrogen for 16 h. The reaction mixture was filtered through Celite™ and the filtrate was concentrated under reduced pressure to give the title compound (12.3 g) as a pale white oil.

reactant | benzyl (3S)-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]-2-oxopyrrolidin-3-ylcarbamate | 20 g | C[C@@H](C(=O)N1CCOCC1)N1C([C@H](CC1)NC(OCC1=CC=CC=C1)=O)=O | C19H25N3O5
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | ethanol | 1.3 l | C(C)O | C2H6O
product | (3S)-3-Amino-1-[(1S)-1-methyl-2-morpholin-4-yl-2-oxoethyl]pyrrolidin-2-one | 12.3 g | N[C@@H]1C(N(CC1)[C@H](C(=O)N1CCOCC1)C)=O | C11H19N3O3
